### PR TITLE
[Merged by Bors] - feat (LinearAlgebra/RootSystem) : Construct root systems from bilinear forms on reflexive modules

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR defines a function that takes a reflexive module `M` equipped with a bilinear form over a commutative ring, and produces a root pairing whose weight space is `M` and whose roots are the reflective vectors.  This is a generalization of the standard construction of root systems from integral lattices.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 1]
```diff
@@ -0,0 +1,186 @@
...
+namespace RootPairing
+
+section Construction
+
+/-- A vector `x` is reflective with respect to a bilinear form if multiplication by its norm is
+injective, and for any other vector `y`, there is a scalar that takes the norm of `x` to twice the
+inner product of `x` and `y`. These conditions are what we need when describing reflection as a map
+taking `y` to `y - 2 • (B x y) / (B x x) • x`. -/
+def IsReflective (B : M →ₗ[R] M →ₗ[R] R) (x : M) : Prop :=
+    IsRegular (B x x) ∧ ∀y : M, ∃r : R, B x x * r = 2 * B x y
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:39]: How about:
```suggestion
structure IsReflective (B : M →ₗ[R] M →ₗ[R] R) (x : M) : Prop :=
  regular : IsRegular (B x x)
  dvd_two_mul : ∀ y, B x x ∣ 2 * B x y
```

Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:39]: I also think we should use `variable` to save a few characters
```lean
variable (B : M →ₗ[R] M →ₗ[R] R) (x : M)
```
and maybe also add
```lean
lemma isReflective_of_dvd_two [IsDomain R] [NeZero (2 : R)] (x : M) (hx : B x x ∣ 2) :
    IsReflective B x where
  regular := isRegular_of_ne_zero <| fun contra ↦ by simp [contra, two_ne_zero (α := R)] at hx
  dvd_two_mul y := hx.mul_right (B x y)
```

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 2]
```diff
@@ -0,0 +1,194 @@
...
+
+lemma reflection_reflective_vector {y : M}
+    (hx : IsReflective B x) : Module.reflection (coroot_of_reflective_apply_self B hx) y =
+    y - (coroot_of_reflective B hx y) • x :=
+  rfl
+
+lemma bilinear_apply_reflection_reflective_vector (B : M →ₗ[R] M →ₗ[R] R) (hSB : LinearMap.IsSymm B)
+    {x y z : M} (hx : IsReflective B x) :
+    B (Module.reflection (coroot_of_reflective_apply_self B hx) y)
+      (Module.reflection (coroot_of_reflective_apply_self B hx) z) = B y z := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:85]: I think it would be nice to state this using the language of orthogonal linear transformations. To my surprise we do not seem to have a definition for these (except possibly in the specialised setting of `InnerProductSpace`).

What do you think about adding something like this somewhere in `Mathlib.LinearAlgebra.SesquilinearForm`:
```lean
variable {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
  (B : LinearMap.BilinForm R M) (f : Module.End R M)

def LinearMap.IsOrthogonal : Prop :=
  ∀ x y, B (f x) (f y) = B x y

variable {B f}

@[simp]
lemma LinearEquiv.isAdjointPair_symm_iff {f : M ≃ₗ[R] M} :
    LinearMap.IsAdjointPair B B f f.symm ↔ B.IsOrthogonal f :=
  ⟨fun hf x y ↦ by simpa using hf x (f y), fun hf x y ↦ by simpa using hf x (f.symm y)⟩

lemma LinearMap.isOrthogonal_of_forall_apply_same
    (h : IsLeftRegular (2 : R)) (hB : B.IsSymm) (hf : ∀ x, B (f x) (f x) = B x x) :
    B.IsOrthogonal f := by
  intro x y
  suffices 2 * B (f x) (f y) = 2 * B x y from h this
  -- Would this be better as a `calc` proof? (not sure)
  have := hf (x + y)
  simp only [map_add, add_apply, hf x, hf y, hB.eq (f y), hB.eq y] at this
  simp only [add_assoc, add_right_inj] at this
  simp only [← add_assoc, add_left_inj] at this
  simpa only [← two_mul] using this
```
and then using it to state this lemma as:
```suggestion
lemma isOrthogonal_reflection (B : M →ₗ[R] M →ₗ[R] R) (hSB : B.IsSymm)
    {x : M} (hx : IsReflective B x) :
    B.IsOrthogonal (Module.reflection (corootOfIsReflective_apply_self B hx)) := by
```

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 3]
```diff
@@ -0,0 +1,194 @@
...
+    rw [← (hx.dvd_two_mul (a + b)).choose_spec, mul_add, ← (hx.2 a).choose_spec,
+      ← (hx.2 b).choose_spec, map_add, mul_add]
+  map_smul' r a := by
+    refine hx.1.1 ?_
+    simp only [RingHom.id_apply]
+    rw [← (hx.2 (r • a)).choose_spec, smul_eq_mul, mul_left_comm, ← (hx.2 a).choose_spec, map_smul,
+      two_mul, smul_eq_mul, two_mul, mul_add]
+
+@[simp]
+lemma coroot_of_reflective_apply {y : M} (hx : IsReflective B x) :
```
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean]: oops I forgot to do this one.  (will change soon)

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 4]
```diff
@@ -0,0 +1,193 @@
...
+  intro y z
+  simp only [LinearEquiv.coe_coe, reflection_apply, LinearMap.map_sub, map_smul, sub_apply,
+    smul_apply, smul_eq_mul]
+  refine hx.1.1 ?_
+  simp only [mul_sub, ← mul_assoc, apply_self_mul_coroot_apply]
+  rw [sub_eq_iff_eq_add, ← hSB x y, RingHom.id_apply, mul_assoc _ _ (B x x), mul_comm _ (B x x),
+    apply_self_mul_coroot_apply]
+  ring
+
+lemma reflective_reflection_reflective (B : M →ₗ[R] M →ₗ[R] R) (hSB : LinearMap.IsSymm B) {x y : M}
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:89]: We can drop `B` here. I also think it's OK to shorten the name here since we're already in the namespace:
```suggestion
lemma reflective_reflection (hSB : LinearMap.IsSymm B) {x y : M}
```

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 5]
```diff
@@ -0,0 +1,193 @@
...
+    rw [← hz, ← LinearEquiv.coe_coe, isOrthogonal_reflection B hx hSB,
+      isOrthogonal_reflection B hx hSB]
+    exact hy.2 _
+
+@[simp]
+lemma dual_apply [IsReflexive R M] (B : M →ₗ[R] M →ₗ[R] R) {x y : M} (hx : IsReflective B x) :
+    IsReflexive.toPerfectPairingDual (R := R) (coroot B hx) y =
+    (coroot B hx) y :=
+  rfl
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:108]: I think we should drop this:
```suggestion
```
and instead add the following just below the definition of `IsReflexive.toPerfectPairingDual` in `Mathlib.LinearAlgebra.PerfectPairing`:
```lean
@[simp]
lemma IsReflexive.toPerfectPairingDual_apply {f : Dual R M} {x : M} :
    IsReflexive.toPerfectPairingDual (R := R) f x = f x :=
  rfl
```

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 6]
```diff
@@ -0,0 +1,193 @@
...
+/-- The root pairing given by all reflective vectors for a bilinear form. -/
+def of_Bilinear [IsReflexive R M] (B : M →ₗ[R] M →ₗ[R] R) (hNB : LinearMap.Nondegenerate B)
+    (hSB : LinearMap.IsSymm B) (h2 : IsRegular (2 : R)) :
+    RootPairing {x : M | IsReflective B x} R M (Dual R M) where
+  toPerfectPairing := (IsReflexive.toPerfectPairingDual (R := R) (M := M)).flip
+  root := Embedding.subtype fun x ↦ IsReflective B x
+  coroot :=
+  {
+    toFun := fun x => IsReflective.coroot B x.2
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:125]:
```suggestion
    { toFun := fun x => IsReflective.coroot B x.2
```
(and +2 spaces indentation below as a result)

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 7]
```diff
@@ -0,0 +1,193 @@
...
+        rw [coroot_apply_self] at h2y
+        rw [mul_comm, ← h2x, ← hSB, RingHom.id_apply, ← h2y, mul_comm]
+      rw [Subtype.ext_iff_val, ← sub_eq_zero]
+      refine hNB.1 _ (fun z => ?_)
+      rw [map_sub, LinearMap.sub_apply, sub_eq_zero]
+      refine h2.1 ?_
+      dsimp only
+      rw [h2x z, ← h2y z, hxy, h2xy] }
+  root_coroot_two := by
+    intro x
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:154]:
```suggestion
  root_coroot_two x := by
```

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 8]
```diff
@@ -0,0 +1,193 @@
...
+      invFun := fun y => ⟨(Module.reflection (coroot_apply_self B x.2) y),
+        reflective_reflection_reflective B hSB x.2 y.2⟩
+      left_inv := by
+        intro y
+        simp [involutive_reflection (coroot_apply_self B x.2) y]
+      right_inv := by
+        intro y
+        simp [involutive_reflection (coroot_apply_self B x.2) y] }
+  reflection_perm_root := by
+    intro x y
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:171]:
```suggestion
  reflection_perm_root x y := by
```

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 9]
```diff
@@ -0,0 +1,193 @@
...
+    simp only [coe_setOf, Embedding.coe_subtype, mem_setOf_eq, Embedding.coeFn_mk, Equiv.coe_fn_mk]
+    rw [Module.reflection_apply, PerfectPairing.flip_apply_apply, dual_apply]
+  reflection_perm_coroot := by
+    intro x y
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:175]:
```suggestion
  reflection_perm_coroot x y := by
```

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 10]
```diff
@@ -0,0 +1,193 @@
...
+      refine h2.1 ?_
+      dsimp only
+      rw [h2x z, ← h2y z, hxy, h2xy] }
+  root_coroot_two := by
+    intro x
+    dsimp only [coe_setOf, Embedding.coe_subtype, PerfectPairing.toLin_apply, mem_setOf_eq, id_eq,
+      eq_mp_eq_cast, RingHom.id_apply, eq_mpr_eq_cast, cast_eq, LinearMap.sub_apply,
+      Embedding.coeFn_mk, PerfectPairing.flip_apply_apply]
+    exact coroot_apply_self B x.2
+  reflection_perm := fun x =>
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:159]:
```suggestion
  reflection_perm x :=
```

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 11]
```diff
@@ -0,0 +1,193 @@
...
+end IsReflective
+
+end LinearMap
+
+namespace RootPairing
+
+open LinearMap IsReflective
+
+/-- The root pairing given by all reflective vectors for a bilinear form. -/
+def of_Bilinear [IsReflexive R M] (B : M →ₗ[R] M →ₗ[R] R) (hNB : LinearMap.Nondegenerate B)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:118]:
```suggestion
def ofBilinear [IsReflexive R M] (B : M →ₗ[R] M →ₗ[R] R) (hNB : LinearMap.Nondegenerate B)
```

File: Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean [hunk 12]
```diff
@@ -0,0 +1,193 @@
...
+# Root pairings made from bilinear forms
+A common construction of root systems is given by taking the set of all vectors in an integral
+lattice for which reflection yields an automorphism of the lattice.  In this file, we generalize
+this construction, replacing the ring of integers with an arbitrary commutative ring and the
+integral lattice with an arbitrary reflexive module equipped with a bilinear form.
+
+## Main definitions:
+ * `IsReflective`: Length is a regular value of `R`, and reflection is definable.
+ * `IsReflective.coroot`: The coroot corresponding to a reflective vector.
+ * `of_Bilinear`: The root pairing whose roots are reflective vectors.
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/OfBilinear.lean:18]: Fully qualifying makes our docs links work:
```suggestion
 * `LinearMap.IsReflective`: Length is a regular value of `R`, and reflection is definable.
 * `LinearMap.IsReflective.coroot`: The coroot corresponding to a reflective vector.
 * `RootPairing.ofBilinear`: The root pairing whose roots are reflective vectors.
```

**Review by ocfnash — APPROVED** [review]
Just a few small nitpicks. Thanks for all your patience, with review: it's quite exciting to see the root system theory growing at such a healthy pace :)

bors d+

File: Mathlib/LinearAlgebra/SesquilinearForm.lean [hunk 13]
```diff
@@ -458,6 +458,37 @@ theorem IsAdjointPair.smul (c : R) (h : IsAdjointPair B B' f g) :
...
+
+/-- A linear transformation `f` is orthogonal with respect to a bilinear form `B` if `B` is
+bi-invariant with respect to `f`. -/
+def IsOrthogonal : Prop :=
+  ∀ x y, B (f x) (f y) = B x y
+
+variable {B f}
+
+@[simp]
+lemma LinearEquiv.isAdjointPair_symm_iff {f : M ≃ₗ[R] M} :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/SesquilinearForm.lean:474]:
```suggestion
lemma _root_.LinearEquiv.isAdjointPair_symm_iff {f : M ≃ₗ[R] M} :
```

**Comment by ocfnash** [comment]
Looks like this got dropped because of a bors crash

bors merge
